US09334480B2
2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid benzylamide was synthesized from 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid, benzylamine, DIEA, HATU and DMF using a similar procedure as 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid 3-fluoro-benzylamide yielding 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid benzylamide. LC/MS calcd for C28H24ClN5O2 (m/e) 497.0, obsd 498 (M+H).

reactant | 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid | ClC=1C=C(C=CC1)CCNC1=C(C(NC=C1)=O)C=1NC2=C(N1)C=CC=C2C(=O)O | C21H17ClN4O3
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid 3-fluoro-benzylamide | FC=1C=C(CNC(=O)C2=CC=CC=3N=C(NC32)C=3C(NC=CC3NC[C@H](C3=CC=CC=C3)O)=O)C=CC1 | C28H24FN5O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-{4-[2-(3-chloro-phenyl)-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-3H-benzoimidazole-4-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=CC=CC=2N=C(NC21)C=2C(NC=CC2NCCC2=CC(=CC=C2)Cl)=O | C28H24ClN5O2
